US07067517B2
4-(Cyclopropyl-pyridin-4-ylmethyl-amino)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title product was prepared from cyclopropyl-piperidine-4-yl-pyridin-4-ylmethyl-amine and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, 3 equivalent of diisopropylamine was added, solvent: dimethylformamide. The crude reaction mixture was evaporated without addition of acetic acid, preparative HPLC (method C) (19%, yellow oil). HPLC-MS m/z=(M+1), Rt: 2.82 min.

reactant | cyclopropyl-piperidine-4-yl-pyridin-4-ylmethyl-amine | C1(CC1)N(CC1=CC=NC=C1)C1CCNCC1 | C14H21N3
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | diisopropylamine | 3 equivalent | C(C)(C)NC(C)C | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(Cyclopropyl-pyridin-4-ylmethyl-amino)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)N(CC1=CC=NC=C1)C1CC1)(F)F | C27H27F3N4O3
